US09120749B2
{6-Bromo-4-[3-(2-(4-methylpiperazin-1-yl)ethyl)phenylamino]quinolin-3-yl}(cyclopropyl)methanone
Following general procedure C, (6-bromo-4-chloroquinolin-3-yl)(cyclopropyl)methanone (240 mg, 0.77 mmol) was reacted with 3-(2-(4-methylpiperazin-1-yl)ethyl)aniline (170 mg, 0.77 mmol) to afford the desired product (212 mg, 55%) as a yellow solid: ESI MS m/z 493 [C26H29BrN4O+H]+.

reactant | (6-bromo-4-chloroquinolin-3-yl)(cyclopropyl)methanone | 0.77 mmol, 240 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)Cl | C13H9BrClNO
reactant | 3-(2-(4-methylpiperazin-1-yl)ethyl)aniline | 0.77 mmol, 170 mg | CN1CCN(CC1)CCC=1C=C(N)C=CC1 | C13H21N3
product | {6-Bromo-4-[3-(2-(4-methylpiperazin-1-yl)ethyl)phenylamino]quinolin-3-yl}(cyclopropyl)methanone | 212 mg, 55% | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NC1=CC(=CC=C1)CCN1CCN(CC1)C | C26H29BrN4O
